US07094780B1
(7,8-Difluoro-3-methyl-2,3-dihydro-1,4-benzoxazin-4yl)-oxoacetaldehyde oxime
A solution of 8.27 g (50 mmol) of chloral hydrate in 125 mL of water is treated with 112.8 g (0.35 mmol) of sodium sulfate decahydrate. The mixture is stirred and treated with a solution of 7,8-difluoro-3-methyl-3,4-dihydro-2H-benz[1,4]oxazine (Chem. Pharm. Bull., 1984; 32:4907) hydrochloride (prepared by dissolving 8.26 g (44.6 mmol) of the free base in 50 mmol of concentrated hydrochloric acid in 70 mL of 50% aqueous ethanol). The reaction is stirred and a solution of 9.8 g (140 mmol) of hydroxylamine hydrochloride in 50 mL of water is added. After heating at 75 to 80° C. for 3 hours, the reaction is stirred at room temperature overnight. The resulting precipitate is removed by filtration, washed with water, and the wet filter cake is dissolved in dichloromethane. The organic solution is washed with water, dried (MgSO4), decolorized with charcoal, filtered and concentrated in vacuo to give 10.5 g of the title compound, mp 188–190° C.

reactant | chloral hydrate | 50 mmol, 8.27 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate decahydrate | 0.35 mmol, 112.8 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 7,8-difluoro-3-methyl-3,4-dihydro-2H-benz[1,4]oxazine | FC1=C(C2=C(NC(CO2)C)C=C1)F | C9H9F2NO
reactant | hydrochloride | 44.6 mmol, 70 mL, 8.26 g | Cl | ClH
reactant | hydroxylamine hydrochloride | 140 mmol, 9.8 g | Cl.NO
solvent | water | 125 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | (7,8-Difluoro-3-methyl-2,3-dihydro-1,4-benzoxazin-4yl)-oxoacetaldehyde oxime | 10.5 g | FC1=C(C2=C(N(C(CO2)C)C(C=NO)=O)C=C1)F | C11H10F2N2O3
